US07728029B2
To a mixture of 5-amino-1-(3-methoxypropyl)-1H-pyrazole-4-carboxylic acid ethyl ester (5.22 g, 23.0 mmol) in dry acetonitrile (46 mL) was added anhydrous cuprous chloride (3.73 g, 37.7 mmol) and acetic acid (2.6 mL, 46.0 mmol). The mixture was cooled to 0° C. in an ice-water bath after which tert-butyl nitrite (4.9 mL, 36.8 mmol) was added over 10 minutes. The solution was allowed to warm to room temperature and stir for 4 h. To the solution was carefully added 6.0N hydrochloric acid (20 mL). The aqueous layer was extracted with methylene chloride (2×100 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to provide the crude material. The product was purified by column chromatography on silica gel (eluting with ethyl acetate/hexanes, 1:1) to provide 5-chloro-1-(3-methoxypropyl)-1H-pyrazole-4-carboxylic acid ethyl ester (1.71 g, 30%) as an orange oil. Mass spectrum: m/z: 247.3 (M+1).

reactant | 5-amino-1-(3-methoxypropyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 23.0 mmol, 5.22 g | C(C)OC(=O)C=1C=NN(C1N)CCCOC | C10H17N3O3
reactant | acetic acid | 46.0 mmol, 2.6 mL | C(C)(=O)O | C2H4O2
reactant | tert-butyl nitrite | 36.8 mmol, 4.9 mL | N(=O)OC(C)(C)C | C4H9NO2
reactant | hydrochloric acid | 6.0N, 20 mL | Cl | ClH
solvent | acetonitrile | 46 mL | C(C)#N | C2H3N
product | 5-chloro-1-(3-methoxypropyl)-1H-pyrazole-4-carboxylic acid ethyl ester | 1.71 g, 30% | C(C)OC(=O)C=1C=NN(C1Cl)CCCOC | C10H15ClN2O3
